US07897597B2
Triethylamine (31.88 mL, 228.77 mmol, 1.5 eq) was added to a solution of 7-benzyloxy-4-chloro-3-nitroquinoline (48.00 g, 152.51 mmol, 1 eq) in dichloromethane (400 mL). Dropwise addition of 2,2-dimethyl-1,3-dioxolan-4-methanamine (20.0 g, 152.51 mmol, 1 eq) to the reaction mixture followed, which was then stirred at ambient temperature for 6 hours. The crude reaction mixture was concentrated under reduced pressure, and the resulting solid was triturated with water and then stirred for 1 hour. The precipitate was collected by filtration, washed with water, dried, suspended in diethyl ether (400 mL), sonicated, and the resulting precipitate material was collected by filtration. The product was dried under vacuum at 40° C. for 12 hours to afford 60.1 g of (7-benzyloxy-3-nitro-quinolin-4-yl)[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]amine as a yellow solid, mp 154-155° C. 1H-NMR (300 MHz, CDCl3) δ 9.74-9.62 (br m, 1H), 9.32 (s, 1H), 8.15 (d, J=9.4 Hz, 1H), 7.51-7.31 (m, 6H), 7.15 (dd, J=9.4, 2.7 Hz, 1H), 5.21 (s, 2H), 4.48-4.37 (m, 1H), 4.16-4.05 (m, 2H), 4.04-3.93 (m, 1H), 3.74 (dd, J=8.5, 5.9 Hz, 1H), 1.54 (s, 3H), 1.40 (s, 3H); MS (APCI) m/z 410.1 (M+H)+.

reactant | Triethylamine | 228.77 mmol, 31.88 mL, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | 7-benzyloxy-4-chloro-3-nitroquinoline | 152.51 mmol, 48.00 g, 1 eq | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C16H11ClN2O3
reactant | 2,2-dimethyl-1,3-dioxolan-4-methanamine | 152.51 mmol, 20.0 g, 1 eq | CC1(OCC(O1)CN)C | C6H13NO2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | (7-benzyloxy-3-nitro-quinolin-4-yl)[(2,2-dimethyl[1,3]dioxolan-4-yl)methyl]amine | 60.1 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC1OC(OC1)(C)C | C22H23N3O5
